* Extracted by KLayout with GF180MCU LVS runset on : 18/08/2026 13:21

.SUBCKT strongarm_comp_core vdd out_n out_p rst_latch vin_p vin_n vss
M$1 vdd out_p out_n vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$2 vdd rst_latch \$7 vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$3 vdd rst_latch out_p vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$4 vdd out_n out_p vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$5 vdd rst_latch out_n vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$6 vdd rst_latch \$6 vdd pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$7 \$7 out_p out_n vss nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$8 \$10 vin_n \$7 vss nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$9 \$6 out_n out_p vss nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$10 \$10 vin_p \$6 vss nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
M$11 vss rst_latch \$10 vss nfet_03v3 L=0.28U W=0.5U AS=0.305P AD=0.305P
+ PS=2.22U PD=2.22U
.ENDS strongarm_comp_core
